US09328279B2
Synthesis of 2,3-dihydroxypropyltrimethylammonium chloride:
To 251 mL of 3-chloro-1,2-dihydroxypropane is added to a round bottom flask equipped with a stir bar, thermometer, and condenser. 837 mL of 25% aqueous trimethylamine is added to the reactor while stirring. The solution is allowed to stir for 16 hours at 15° C. The solution is sparged with nitrogen for six days during which time the pH decreases from about 11 to about 6. The solution is placed under reduced pressure of approximately 25 inches Hg for 24 hours at 65° C. The solution is then placed under reduced pressure of 30 inches of Hg for eight hours at 65° C. 200 mL of isopropanol is added to the solution and the product crystallizes. The product is filtered and placed in a nitrogen dry box for 24 hours and then in a vacuum oven at about 60° C. and at reduced pressure of 26 inches of Hg with a nitrogen sweep for 36 hours. The product is placed in a nitrogen dry box for 24 hours. The product is analyzed for trimethylamine via GC headspace analysis and 3.2 ppm trimethylamine is found. Analysis by HPLC showed 100.0% purity of the 2,3-dihydroxyropyltrimethylammonium chloride. The isolated product has the following structure:

reactant | 3-chloro-1,2-dihydroxypropane | 251 mL | ClCC(CO)O | C3H7ClO2
reactant | trimethylamine | 837 mL | CN(C)C | C3H9N
product | 2,3-dihydroxypropyltrimethylammonium chloride | [Cl-].OC(C[N+](C)(C)C)CO | InChI=1S/C6H16NO2.ClH/c1-7(2,3)4-6(9)5-8;/h6,8-9H,4-5H2,1-3H3;1H/q+1;/p-1
